US08058447B2
2,2,2-Trifluoroethyl 3-oxobutanoate
The title compound is prepared in analogy to example 3 (stage 3a) starting from 2,2,6-trimethyl-1,3-dioxin-4-one and 2,2,2-trifluoroethanol.

reactant | 2,2,6-trimethyl-1,3-dioxin-4-one | CC1(OC(=CC(O1)=O)C)C | C7H10O3
reactant | 2,2,2-trifluoroethanol | FC(CO)(F)F | C2H3F3O
product | 2,2,2-Trifluoroethyl 3-oxobutanoate | O=C(CC(=O)OCC(F)(F)F)C | C6H7F3O3
